US06043366
8-Cyclodecyl-3-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl]-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1)
The title compound, white solid, m. p. 140° C. and MS: m/e=555.3 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and methanesulfonic acid 2-(5-methyl-2-phenyloxazol-4-yl)-ethyl ester.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | methanesulfonic acid 2-(5-methyl-2-phenyloxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C | C13H15NO4S
product | 8-Cyclodecyl-3-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl]-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CCC=2N=C(OC2C)C2=CC=CC=C2)=O)CC1 | InChI=1S/C35H46N4O2.ClH/c1-28-32(36-33(41-28)29-15-9-7-10-16-29)21-24-38-27-39(31-19-13-8-14-20-31)35(34(38)40)22-25-37(26-23-35)30-17-11-5-3-2-4-6-12-18-30;/h7-10,13-16,19-20,30H,2-6,11-12,17-18,21-27H2,1H3;1H
